US06297196B1
Step 2: 3-Oxo-1-cyclohexenyl 4-benzoyloxy-5,8-dimethyl-1,1-dioxo-1,2,3,4-tetrahydro-1λ6-thiochromene-6-carboxylate
0.80 g (2.1 mmol) of 4-benzoyloxy-5,8-dimethyl-1,1-dioxo-1,2,3,4-tetrahydro-1λ6-thiochromene-6-carboxylic acid in 30 ml of methylene chloride was admixed with 2 drops of N,N-dimethylformamide and 1.69 g (13.3 mmol) of oxalyl chloride, and the mixture was boiled under reflux for 3.5 h. The solvents were subsequently stripped off using a rotary evaporator, and the residue was taken up in 100 ml of methylene chloride and, at 0° C., admixed with 0.25 g (2.2 mmol) of cyclohexanedione and 0.44 g (7.4 mmol) of triethylamine. The mixture was stirred at room temperature for 4 h and subsequently concentrated using a rotary evaporator, and the residue was purified by chromatography (silica gel, ethyl acetate: hexane=1:1).

reactant | 4-benzoyloxy-5,8-dimethyl-1,1-dioxo-1,2,3,4-tetrahydro-1λ6-thiochromene-6-carboxylic acid | 2.1 mmol, 0.80 g | C(C1=CC=CC=C1)(=O)OC1CCS(C2=C(C=C(C(=C12)C)C(=O)O)C)(=O)=O | C19H18O6S
reactant | oxalyl chloride | 13.3 mmol, 1.69 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | cyclohexanedione | 2.2 mmol, 0.25 g | C1(C(CCCC1)=O)=O | C6H8O2
reactant | triethylamine | 7.4 mmol, 0.44 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
product | 3-Oxo-1-cyclohexenyl 4-benzoyloxy-5,8-dimethyl-1,1-dioxo-1,2,3,4-tetrahydro-1λ6-thiochromene-6-carboxylate | C(C1=CC=CC=C1)(=O)OC1CCS(C2=C(C=C(C(=C12)C)C(=O)OC1=CC(CCC1)=O)C)(=O)=O | C25H24O7S
